US07449466B2
Production Example 38 was repeated except that 1-(4-benzyloxy-3-fluorophenyl)piperazine and n-octyl bromide were replaced with 1-(2,5-difluoro-4-methoxyphenyl)piperazine (228 mg) and 1-(4-tert-butylphenyl)-4-chlorobutan-1-one (239 mg). The resulting crude product was purified on silica gel column chromatography (eluent, ethyl acetate) to provide 1-(4-tert-butylphenyl)-4-[4-(2,5-difluoro-4-methoxyphenyl)piperazin-1-yl]-butan-1-one (343 mg).

reactant | 1-(4-benzyloxy-3-fluorophenyl)piperazine | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)N1CCNCC1)F | C17H19FN2O
reactant | n-octyl bromide | C(CCCCCCC)Br | C8H17Br
reactant | 1-(2,5-difluoro-4-methoxyphenyl)piperazine | 228 mg | FC1=C(C=C(C(=C1)OC)F)N1CCNCC1 | C11H14F2N2O
reactant | 1-(4-tert-butylphenyl)-4-chlorobutan-1-one | 239 mg | C(C)(C)(C)C1=CC=C(C=C1)C(CCCCl)=O | C14H19ClO
product | 1-(4-tert-butylphenyl)-4-[4-(2,5-difluoro-4-methoxyphenyl)piperazin-1-yl]-butan-1-one | 343 mg | C(C)(C)(C)C1=CC=C(C=C1)C(CCCN1CCN(CC1)C1=C(C=C(C(=C1)F)OC)F)=O | C25H32F2N2O2
